US07994336B2
a) Synthesis of 3-chloro-2-oxo-3-(3-trifluoromethyl-phenyl)-propionic acid methyl ester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester but using 3-trifluoromethylbenzaldehyde instead 4-fluorobenzaldehyde.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 3-trifluoromethylbenzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-2-oxo-3-(3-trifluoromethyl-phenyl)-propionic acid methyl ester | COC(C(C(C1=CC(=CC=C1)C(F)(F)F)Cl)=O)=O | C11H8ClF3O3
